US05053426
3-(Acetylamino)-N-(2-aminoethyl)propanamide 27
A mixture of 1.3 g of [2-[[3-(acetylamino)-1-oxo-propyl]amino] ethyl] carbamic acid, phenylmethyl ester, 25 ml of cyclohexane and 180 mg of 10% palladium on carbon in 50 ml of ethanol was heated for 1.5 hours under argon and then stirred at room temperature for 12 hours. The mixture was filtered through a pad of celite and washed with methanol. The combined filtrate and wash was evaporated, giving 670 mg of the desired compound as a white solid.

reactant | [2-[[3-(acetylamino)-1-oxo-propyl]amino] ethyl] carbamic acid, phenylmethyl ester | 1.3 g | C(C)(=O)NCCC(=O)NCCNC(OCC1=CC=CC=C1)=O | C15H21N3O4
reactant | cyclohexane | 25 ml | C1CCCCC1 | C6H12
catalyst | palladium on carbon | 180 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(Acetylamino)-N-(2-aminoethyl)propanamide | 670 mg | C(C)(=O)NCCC(=O)NCCN | C7H15N3O2
